US07371767B2
A solution of crude 1-(triisopropylsilyl)-1H-pyrrol-3-ylboronic acid, 2-bromo-1,3-thiazole (0.206 g, 1.26 mmol) and potassium carbonate (0.174 g, 1.26 mmol) in benzene (10 mL), methanol (1 mL) and water (1 mL) was degassed with argon for 15 min. Tetrakis(triphenylphosphine)palladium(0) (40 mg, 0.034 mmol) was added and the reaction mixture was degassed a further 15 min before stirring at 70° C. for 14 h. The reaction mixture was quenched with water (30 mL) then extracted with EtOAc (3×30 mL) and washed with brine. The combined organic phase was dried over Na2SO4 and concentrated in vacuo. The crude residue was chromatographed on silica gel eluting with EtOAc:hexane (1:1) to afford 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]-1,3-thiazole as a brown oil. 1H NMR (CD3Cl, 300 MHz) δ 7.68 (d, 1H), 7.37-7.36 (m, 1H), 7.08 (d, 1H), 7.76-7.75 (m, 1H), 6.70 (dd, 1H), 1.46 (h, 3H) 1.09 (d, 18H).

reactant | 1-(triisopropylsilyl)-1H-pyrrol-3-ylboronic acid | C(C)(C)[Si](N1C=C(C=C1)B(O)O)(C(C)C)C(C)C | C13H26BNO2Si
reactant | 2-bromo-1,3-thiazole | 1.26 mmol, 0.206 g | BrC=1SC=CN1 | C3H2BrNS
reactant | potassium carbonate | 1.26 mmol, 0.174 g | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.034 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[1-(triisopropylsilyl)-1H-pyrrol-3-yl]-1,3-thiazole | C(C)(C)[Si](N1C=C(C=C1)C=1SC=CN1)(C(C)C)C(C)C | C16H26N2SSi
